US06967196B1
4-Chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[2-[[[ethylamino]carbonyl]oxy]-(R)-1-methylethyl]benzenesulfonamide
To a solution of 4-chloro-N-[5-chloro-2-(acetoxymethyl)phenyl]-N-[2[[[[4-nitrophenyl]oxy]carbonyl]oxy]-(R)-methylethyl]benzenesulfonamide (0.85 g, 0.14 mmol) was added ethylamine (0.13 g, 0.28 mmol) in DMF (2 mL). The resulting mixture was allowed to stir at 22° C. for 12 h and concentrated under reduced pressure. The mixture was diluted with methanol/H2O (2 mL), followed by the addition of K2CO3. The mixture was filtered and the solvent was removed. Silica gel chromatography (30% ethyl acetate/hexanes) of the concentrate afforded the title compound. Yield=900/o colorless oil: MS (ESI+), 462 (M+H).

reactant | 4-chloro-N-[5-chloro-2-(acetoxymethyl)phenyl]-N-[2[[[[4-nitrophenyl]oxy]carbonyl]oxy]-(R)-methylethyl]benzenesulfonamide | 0.14 mmol, 0.85 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](COC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C)C1=C(C=CC(=C1)Cl)COC(C)=O | C25H22Cl2N2O9S
reactant | ethylamine | 0.28 mmol, 0.13 g | C(C)N | C2H7N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[2-[[[ethylamino]carbonyl]oxy]-(R)-1-methylethyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](COC(=O)NCC)C)C1=C(C=CC(=C1)Cl)CO | C19H22Cl2N2O5S
